US04906645
2-Amino-2-methyl-4-(2-hydroxyphenyl)butane
To a cold (0° C.) solution of 986 mg (5.1 mmol) of 2-amino-2-methyl-4-(2-methoxyphenyl)butane in 20 ml of dry methylene chloride, a solution of 2.5 ml of a 1M BBr3 solution in 10 ml of methylene chloride is slowly added. The reaction mixture is stirred at 0° C. for two hours and then at room temperature for 3 hours. The reaction is quenched with methanol and concentrated. Pure product may be obtained by chromatography on silica gel.

reactant | 2-amino-2-methyl-4-(2-methoxyphenyl)butane | 5.1 mmol, 986 mg | NC(C)(CCC1=C(C=CC=C1)OC)C | C12H19NO
reactant | BBr3 | 1M | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-Amino-2-methyl-4-(2-hydroxyphenyl)butane | NC(C)(CCC1=C(C=CC=C1)O)C | C11H17NO
